US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]-3-benzylbenzamide hydrochloride
tert-Butyl [trans-2-(4-{[(3-benzylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate (125 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure to give the title compound (54.7 mg).

reactant | tert-Butyl [trans-2-(4-{[(3-benzylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 125 mg | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C28H30N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-benzylbenzamide hydrochloride | 54.7 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)CC1=CC=CC=C1)=O | InChI=1S/C23H22N2O.ClH/c24-22-15-21(22)18-9-11-20(12-10-18)25-23(26)19-8-4-7-17(14-19)13-16-5-2-1-3-6-16;/h1-12,14,21-22H,13,15,24H2,(H,25,26);1H/t21-,22+;/m0./s1
